US07745484B2
Step 2: (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate
(4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(thiazol-4-ylmethyl)oxazolidine-3-carboxylate (0.100 g, 0.23 mmol) was dissolved in THF (2.5 mL) and cooled to −78° C. n-Butyllithium (0.12 ml, 0.29 mmol) was added and the reaction was stirred at −50° C. for 40 minutes followed by the addition of iodomethane (0.018 ml, 0.29 mmol). After stirring 40 minutes the reaction was quenched with saturated ammonium chloride and extracted with ethyl acetate. The combined organic layers were washed with water, brine, and dried over sodium sulfate to afford the title compound. MS m/z: 457.3 (M+1).

reactant | (4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(thiazol-4-ylmethyl)oxazolidine-3-carboxylate | 0.23 mmol, 0.100 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=CSC1 | C21H38N2O4SSi
reactant | n-Butyllithium | 0.29 mmol, 0.12 ml | C(CCC)[Li]
reactant | iodomethane | 0.29 mmol, 0.018 ml | IC | CH3I
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=C(SC1)C | C22H40N2O4SSi
